US05268386
Ethyl 2-{(5-methoxy-8-sulfamoyl-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohex an]-7-yl)oxy}acetate
A solution of ethyl 2-{(5-methoxy-8-chlorosulfonyl -3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate (prepared in Preparation 70) (0.32 g, 0.74 mmol) in dichloromethane (4 ml) is added dropwise to a solution of liquid ammonia (2 ml, 80 mmol) and triethylamine (0.1 ml, 0.7 mmol) in dichloromethane (4 ml) at -25° to -20 ° C. After stirring at the same temperature for 30 minutes, the solvent is removed by distillation. The residue is placed on a silica gel column and eluted with a mixture of acetone and dichloromethane (1:1) to yield the title compound as a crystalline solid (0.173 g, yield 56.5%). Recrystallization from a mixture of ethyl acetate and ether gives a product having a melting point of 188°-190° C.

reactant | ethyl 2-{(5-methoxy-8-chlorosulfonyl -3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohexan]-7-yl)oxy}acetate | 0.74 mmol, 0.32 g | COC1=CC(=C(C2=C1C(CC1(CCCCC1)O2)=O)S(=O)(=O)Cl)OCC(=O)OCC | C19H23ClO8S
reactant | ammonia | 80 mmol, 2 ml | N | H3N
reactant | triethylamine | 0.7 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Ethyl 2-{(5-methoxy-8-sulfamoyl-3,4-dihydro-4-oxospiro[2H-1-benzopyran-2,1'-cyclohex an]-7-yl)oxy}acetate | 0.173 g, yield 56.5% | COC1=CC(=C(C2=C1C(CC1(CCCCC1)O2)=O)S(N)(=O)=O)OCC(=O)OCC | C19H25NO8S
